US08466186B2
(d) 3-[6-(5-Aza-spiro[2.4]hept-5-yl]-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzylamine
The sub-title compound was prepared in analogy to example 3, step (d) from {3-[6-(5-aza-spiro[2.4]hept-5-yl)-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzyl}-carbamic acid tert-butyl ester (50 mg, 0.1 mmol) and 6 M aq. HCl (0.40 mL) in THF (2 mL).

reactant | {3-[6-(5-aza-spiro[2.4]hept-5-yl)-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzyl}-carbamic acid tert-butyl ester | 0.1 mmol, 50 mg | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2CC1(CC1)CC2)=O | C25H29Cl2N5O2
reactant | HCl | 6 M, 0.40 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[6-(5-Aza-spiro[2.4]hept-5-yl]-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzylamine | C1CC12CN(CC2)C=2C(=CC1=C(NC(=N1)NC=1C=C(CN)C=CC1Cl)C2)Cl | C20H21Cl2N5
